US07105516B2
Water (50 mL) and sodium hydroxide (50 mL, 10 N) were added to a solution of 3-(2-oxo-cyclopentylmethyl)-1-(toluene-4-sulfonyl)-1H-indole-5-carbonitrile (1.0 g, 2.56 mMol) in THF (200 mL), and the mixture was stirred for 16 h. The reaction was diluted with ethyl acetate (300 mL), quenched with 1N HCl (100 mL), and then poured into a mixture of saturated aqueous sodium bicarbonate (200 mL) and brine (100 mL). The aqueous layer was extracted with ethyl acetate (4×250 mL). The combined organic layers were washed with brine (150 mL), dried over Na2SO4, and concentrated in vacuo. The crude material was purified by silica gel chromatography using a step gradient of 20% ethyl acetate/hexanes-85% ethyl acetate/hexanes to give 3-(2-oxo-cyclopentylidenemethyl)-1H-indole-5-carbonitrile as a yellow solid (400 mg, 67%) after drying under vacuum. 1H NMR (400 MHz, DMSO-d6) δ 8.43 (1H, s), 7.96 (1H, m), 7.63 (2H, m), 7.55 (1H, m), 2.85 (2H, m), 2.35 (2H, m), 2.00 (2H, m); LCMS (4.6×50 mm XTERRA C-18 S5 column, 5 mL/min, 0–100% MeOH/H2O/0.1% TFA, 2 min gradient): Tr=1.50 min, m/e 237 (M+H)+.

reactant | Water | 50 mL | O | H2O
reactant | sodium hydroxide | 10 N, 50 mL | [OH-].[Na+]
reactant | 3-(2-oxo-cyclopentylmethyl)-1-(toluene-4-sulfonyl)-1H-indole-5-carbonitrile | 2.56 mMol, 1.0 g | O=C1C(CCC1)CC1=CN(C2=CC=C(C=C12)C#N)S(=O)(=O)C1=CC=C(C=C1)C | C22H20N2O3S
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | 3-(2-oxo-cyclopentylidenemethyl)-1H-indole-5-carbonitrile | 400 mg, 67% | O=C1C(CCC1)=CC1=CNC2=CC=C(C=C12)C#N | C15H12N2O
